US05089499
A mixture of 2-phthalimidoacetimidate hydrochloride (6 g, Chem. Ber., 1964, 97, 528) and a saturated aqueous potassium carbonate solution (50 ml) was stirred at ambient temperature for 3 minutes and then extracted with chloroform. The organic phase was dried (Na2SO4) and evaporated. A mixture of the solid so obtained, ammonium chloride (1.4 g) and methanol (100 ml) was stirred at laboratory temperature for 18 hours. The mixture was evaporated to give 2-phthalimidoacetamidine hydrochloride, as a white solid (5.5 g).

reactant | 2-phthalimidoacetimidate hydrochloride | 6 g | Cl.C1(C=2C(C(N1CC(O)=N)=O)=CC=CC2)=O
reactant | potassium carbonate | 50 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 1.4 g | [Cl-].[NH4+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-phthalimidoacetamidine hydrochloride | Cl.C1(C=2C(C(N1CC(=N)N)=O)=CC=CC2)=O | InChI=1S/C10H9N3O2.ClH/c11-8(12)5-13-9(14)6-3-1-2-4-7(6)10(13)15;/h1-4H,5H2,(H3,11,12);1H
